US09359375B2
To a solution of N-Boc-O-benzyl-D-serine (510 mg, 1.72 mmol) and HOBt hydrate (317 mg, 2.07 mmol) in DMF (9 mL), EDC (432 mg, 2.25 mmol) was added. The mixture was stirred for 60 min. Then conc. NH4OH (0.600 mL, ˜8.40 mmol) was added. It was stirred for 18 h. Water and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (R)-tert-butyl 1-amino-3-(benzyloxy)-1-oxopropan-2-ylcarbamate (444 mg).

reactant | N-Boc-O-benzyl-D-serine | 1.72 mmol, 510 mg | C(=O)(OC(C)(C)C)N[C@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | HOBt hydrate | 2.07 mmol, 317 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 2.25 mmol, 432 mg
reactant | NH4OH | ˜8.40 mmol, 0.600 mL | [NH4+].[OH-]
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | (R)-tert-butyl 1-amino-3-(benzyloxy)-1-oxopropan-2-ylcarbamate | 444 mg | NC([C@@H](COCC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C15H22N2O4
